US09388153B2
Cesium carbonate (612 mg, 1.88 mmol) was added to a solution of 5-bromobenzofuran-3(2H)-one (200 mg, 0.939 mmol), (3-fluorophenyl)boronic acid (263 mg, 1.88 mmol) and toluene (20 mL) in a 50 mL Schlenk tube. A nitrogen atmosphere was established by evacuating and refilling with nitrogen (3×), then tetrakis(triphenylphosphine)palladium (0) (11 mg, 0.01 mmol) was added to the reaction. The flask was sealed and heated in a 80° C. oil bath overnight. The resulting mixture was cooled to room temperature. The reaction was then diluted with ethyl acetate and filtered through celite. Ethyl acetate (30 mL) was used to wash the flask and the combined organic filtrate was concentrated. The resulting crude residue was purified on a Teledyne-Isco Combiflash machine (40 g column, hexanes→100% ethyl acetate/hexanes, gradient), to afford 212 mg (99%) of 5-(3-fluorophenyl)benzofuran-3(2H)-one.

reactant | Cesium carbonate | 1.88 mmol, 612 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 5-bromobenzofuran-3(2H)-one | 0.939 mmol, 200 mg | BrC=1C=CC2=C(C(CO2)=O)C1 | C8H5BrO2
reactant | (3-fluorophenyl)boronic acid | 1.88 mmol, 263 mg | FC=1C=C(C=CC1)B(O)O | C6H6BFO2
reactant | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.01 mmol, 11 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(3-fluorophenyl)benzofuran-3(2H)-one | 212 mg, 99% | FC=1C=C(C=CC1)C=1C=CC2=C(C(CO2)=O)C1 | C14H9FO2
